US09056859B2
To a flask charged with (3-bromo-2-fluorophenyl)methanol (840 mg, 4.1 mmol) and a stir bar was added added thallium trifluoroacetate (2.3 g, 4.3 mmol) and TFA (4.0 mL) at 0° C. The mixture was allowed to stir for 16 hours. LC showed no SM left at that point. The volatiles were removed under reduced pressure, and the residue was dissolved in DCM and concentrated twice to affect azeotropic removal of all TFA. After pumping the residue under high vacuum for 20 minutes, palladium chloride (73 mg, 0.41 mmol), lithium chloride (350 mg, 8.2 mmol), magnesium oxide (330 mg, 8.2 mmol), and MeOH (15 mL) were added to the flask. The mixture was treated under an atmosphere of CO for 2 hours. To this mixtue was added EtOAc to precipitate all the inorganic solids. The crude solution was filtered through a Celite® pad, and the filtrate was collected, adsorbed onto silica gel, and purified by silica gel chromatography. Removal of solvents gave rise to 5-bromo-4-fluoro-2-benzofuran-1(3H)-one. LC-MS (IE, m/z): 231 [M+1]+;

reactant | (3-bromo-2-fluorophenyl)methanol | 4.1 mmol, 840 mg | BrC=1C(=C(C=CC1)CO)F | C7H6BrFO
reactant | thallium trifluoroacetate | 4.3 mmol, 2.3 g | FC(C(=O)[O-])(F)F.[Tl+]
reactant | TFA | 4.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | lithium chloride | 8.2 mmol, 350 mg | [Cl-].[Li+]
reactant | magnesium oxide | 8.2 mmol, 330 mg | [O-2].[Mg+2]
catalyst | palladium chloride | 0.41 mmol, 73 mg | [Pd](Cl)Cl
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeOH | 15 mL | CO | CH4O
product | 5-bromo-4-fluoro-2-benzofuran-1(3H)-one | BrC1=C(C2=C(C(OC2)=O)C=C1)F | C8H4BrFO2
